US04282365
Step D: 6.11-Dihydro-3-isopropyl-11-oxodibenz[b,e]oxepin-9-carbonitrile
Reflux a mixture of 8.39 gm. (0.0253 mole) of 9-bromo-6,11-dihydro-3-isopropyl-11-oxodibenz[b,e]oxepin, 4.83 gm. (0.0539 mole) of cuprous cyanide and 30 ml. of dimethylformamide for 8 hours with vigorous stirring. Cool the reaction mixture and shake with a mixture of 36 ml. of chloroform, 25 ml. of saturated sodium cyanide solution and 25 ml. of water until all solids have dissolved. Separate the organic layer, wash with aqueous sodium cyanide solution and water and dry over anhydrous magnesium sulfate. Remove the solvent under vacuum. Purity the resulting oil (7.01 gm.) by column chromatography on silica gel with benzene as eluant to obtain the title product [yield 2.8 gm., m.p. 101°-108° C., showing a single spot, Rf =0.18 on thin layer chromatography or silica gel with benzene as the solvent system, pmr (CDCl3 1,23(6H, d, (CH3)2CH--), 2.95 (1H,m, (CH3)2CH--), 5.20 (2H,s, CH2O)].

reactant | 9-bromo-6,11-dihydro-3-isopropyl-11-oxodibenz[b,e]oxepin | 0.0253 mole | BrC=1C=CC2=C(C(C3=C(OC2)C=C(C=C3)C(C)C)=O)C1 | C17H15BrO2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | sodium cyanide | [C-]#N.[Na+]
solvent | water | O | H2O
product | 6.11-Dihydro-3-isopropyl-11-oxodibenz[b,e]oxepin-9-carbonitrile | C(C)(C)C=1C=CC2=C(OCC3=C(C2=O)C=C(C=C3)C#N)C1 | C18H15NO2
